US04740622
Preparation of 4,5-dinitro-2-methoxyphenol
0.1 mol (21.2 g) of 4,5-methylenedioxy-1,2-dinitrobenzene is added to a solution of 0.12 mol (16.8 ml) of triethylamine, 0.4 mol of sodium methylate (72 g of a 30% strength solution in methanol) and 60 ml of methanol. The mixture is heated for 10 minutes at the refluxing temperature of the methanol. After the mixture has been cooled to 0° C., the phenate of the expected product is drained. The phenate is dissolved in 300 ml of water at 60° C. The solution is filtered on paper in order to remove a resin. On cooling and neutralization of the filtrate with acetic acid, the expected product precipitates. After being dried, the 4,5-dinitro-2-methoxyphenol thereby obtained is recrystallized from isopropanol. It melts at 172° C. (literature: 177° C.).

reactant | 4,5-methylenedioxy-1,2-dinitrobenzene | 0.1 mol, 21.2 g | C1OC2=CC(=C(C=C2O1)[N+](=O)[O-])[N+](=O)[O-] | C7H4N2O6
reactant | triethylamine | 0.12 mol, 16.8 ml | C(C)N(CC)CC | C6H15N
reactant | sodium methylate | 0.4 mol | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | methanol | 60 ml | CO | CH4O
product | 4,5-dinitro-2-methoxyphenol | [N+](=O)([O-])C1=CC(=C(C=C1[N+](=O)[O-])O)OC | C7H6N2O6
